US05885990
Preparation of 6-amidino-1-dimethylcarbamoylmethoxycarbonyl-2-naphthyl 4-[(4,5-dihydro-1H-imidazol-2-yl)amino]benzoate.dihydrochloride:
15 Milliliters of anhydrous pyridine was added to 1.0 g of 4-[(4,5-dihydro-1H-imidazol-2-yl)amino]-benzoic acid.hydrochloride, 1.38 g of 6-amidino-1-dimethylcarbamoylmethoxycarbonyl-2-naphthol.hydrochloride, 1.28 g of DCC and 50.5 mg of DMAP, followed by stirring for 2 hours under cooling with ice and then 48 hours at room temperature. Then, the precipitate was collected by filtration, and dissolved by adding thereto 50 ml of warm DMF, 0.5 ml of 1N-hydrochloric acid and 2 ml of water, followed by stirring for 1 hour under cooling with ice. The precipitate was filtered and the filtrate was concentrated under reduced pressure. To the residue was added 15 ml of DMF, and the solution was added dropwise to a mixed liquid of 150 ml of acetone and 50 ml of ether, followed by stirring for 1 hour under cooling with ice. Then, the precipitate was collected by filtration to obtain a crude product. Then, the product was subjected to silica gel column chromatography using methyl ethyl ketone-water-acetic acid (80:15:5) as an eluent, and the desired fractions were collected and the solvent was distilled off under reduced pressure. To the residue were added 5 ml of DMF and 0.7 ml of concentrated hydrochloric acid, and the solution was added dropwise to 150 ml of acetone, followed by stirring for 24 hours under cooling with ice. Then, the precipitate was collected by filtration to obtain 447.8 mg of the desired product.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 4-[(4,5-dihydro-1H-imidazol-2-yl)amino]-benzoic acid.hydrochloride | 1.0 g | Cl.N1C(=NCC1)NC1=CC=C(C(=O)O)C=C1
reactant | 6-amidino-1-dimethylcarbamoylmethoxycarbonyl-2-naphthol.hydrochloride | 1.38 g | Cl.C(N)(=N)C=1C=C2C=CC(=C(C2=CC1)C(=O)OCC(N(C)C)=O)O
reactant | DCC | 1.28 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 50.5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methyl ethyl ketone water acetic acid | C(C)C(=O)C.O.C(C)(=O)O
product | 6-amidino-1-dimethylcarbamoylmethoxycarbonyl-2-naphthyl 4-[(4,5-dihydro-1H-imidazol-2-yl)amino]benzoate.dihydrochloride | 447.8 mg | Cl.Cl.N1C(=NCC1)NC1=CC=C(C(=O)OC2=C(C3=CC=C(C=C3C=C2)C(N)=N)C(=O)OCC(N(C)C)=O)C=C1 | InChI=1S/C26H26N6O5.2ClH/c1-32(2)21(33)14-36-25(35)22-19-9-5-17(23(27)28)13-16(19)6-10-20(22)37-24(34)15-3-7-18(8-4-15)31-26-29-11-12-30-26;;/h3-10,13H,11-12,14H2,1-2H3,(H3,27,28)(H2,29,30,31);2*1H
